US09428470B2
A mixture of (5R)-3-(3-(benzyloxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid (75.0 g), 10% Pd/C (containing about 55% water, 7.5 g), and THF (750 mL) was stirred at room temperature for 15 hours under a hydrogen atmosphere. To the reaction mixture, methanol (150 mL) was added, then the catalyst was filtered and washed with methanol (375 mL). The filtrate was concentrated under reduced pressure to obtain (5R)-5-(carboxymethyl)-3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid as a crude product.

reactant | (5R)-3-(3-(benzyloxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 75.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NO[C@@](C1)(C(=O)O)CC(=O)O | C19H17NO6
reactant | THF | 750 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 7.5 g | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | (5R)-5-(carboxymethyl)-3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | C(=O)(O)C[C@]1(CC(=NO1)C1=CC(=CC=C1)O)C(=O)O | C12H11NO6
